US06025375
To a solution of ethyl [3-[2-[(4,5-diphenyloxazol-2-yl)methyl]-1,2-epoxycyclopentyl]phenoxy]acetate (500 mg) in ethanol (20 ml) was added palladium on carbon (0.5 g). After being stirred for 24 hours under hydrogen atmosphere, the reaction mixture was filtered. The solvent was evaporated in vacuo to give ethyl [3-[2-[(4,5-diphenyloxazol-2-yl)methyl]-2-hydroxycyclopentyl]phenoxy]-acetate (260 mg).

reactant | ethyl [3-[2-[(4,5-diphenyloxazol-2-yl)methyl]-1,2-epoxycyclopentyl]phenoxy]acetate | 500 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CC12C(CCC1)(O2)C=2C=C(OCC(=O)OCC)C=CC2 | C31H29NO5
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | ethyl [3-[2-[(4,5-diphenyloxazol-2-yl)methyl]-2-hydroxycyclopentyl]phenoxy]-acetate | 260 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CC1(C(CCC1)C=1C=C(OCC(=O)OCC)C=CC1)O | C31H31NO5
